US06265415B1
Synthesis of 6-chloro-2,3-dimethyl-8-(2,6-dimethylbenzylamino)imidazo[1,2-a]pyridine
A mixture of 8-amino-6-chloro-2,3-dimethylimidazo[1,2-a]pyridine (0.894 g, 4.57 mmol), 2,6-dimethylbenzaldehyde (0.77 g, 5.7 mmol), ZnCl2 (1.08 g, 7.92 mmol), NaB(CN)H3 (0.36 g, 5.7 mmol) and MeOH (35 ml) was refluxed for 3.5 h. More 2,6-dimethylbenzaldehyde (0.25 g in 4 ml MeOH), ZnCl2 (0.55 g) and NaB(CN)H3 (0.35 g) were added. The reaction mixture was refluxed for additional 4 h. Subsequent workup by addition of 1 M NaOH (150 ml), and water (50 ml), followed by extraction of the mixture with CH2Cl2, drying, and evaporation of solvent gave a solid residue. The crude product dissolved in ethyl acetate and ether was added. Filtration and evaporation of solvent gave a residue which was recrystallized from ethyl acetate to give 0.52 g product.

reactant | 8-amino-6-chloro-2,3-dimethylimidazo[1,2-a]pyridine | 4.57 mmol, 0.894 g | NC=1C=2N(C=C(C1)Cl)C(=C(N2)C)C | C9H10ClN3
reactant | 2,6-dimethylbenzaldehyde | 5.7 mmol, 0.77 g | CC1=C(C=O)C(=CC=C1)C | C9H10O
reactant | MeOH | 35 ml | CO | CH4O
reactant | 2,6-dimethylbenzaldehyde | 4 ml, 0.25 g | CC1=C(C=O)C(=CC=C1)C | C9H10O
reactant | NaOH | 1 M, 150 ml | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | ZnCl2 | 7.92 mmol, 1.08 g | [Cl-].[Cl-].[Zn+2]
catalyst | ZnCl2 | 0.55 g | [Cl-].[Cl-].[Zn+2]
solvent | ether | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
product | 6-chloro-2,3-dimethyl-8-(2,6-dimethylbenzylamino)imidazo[1,2-a]pyridine | 0.52 g | ClC=1C=C(C=2N(C1)C(=C(N2)C)C)NCC2=C(C=CC=C2C)C | C18H20ClN3
